US08808703B2
Step 2: diethyl 2-(2-azidoethoxy)ethylphosphonate
To a solution of diethyl 2-(2-bromoethoxy)ethylphosphonate (1 eq) in EtOH (0.3 M) was added sodium azide (5 eq) in water (2 M). The reaction mixture was heated at reflux overnight. The mixture was then diluted with water, extracted with ethyl acetate. The organic layer was washed with 5% citric acid, saturated NaHCO3, water and brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 80-100% EtOAc/Hex to give the product as colorless oil.

reactant | diethyl 2-(2-bromoethoxy)ethylphosphonate | 1 eq | BrCCOCCP(OCC)(OCC)=O | C8H18BrO4P
reactant | sodium azide | 5 eq | [N-]=[N+]=[N-].[Na+]
solvent | EtOH | 0.3 M | CCO | C2H6O
solvent | water | 2 M | O | H2O
product | diethyl 2-(2-azidoethoxy)ethylphosphonate | N(=[N+]=[N-])CCOCCP(OCC)(OCC)=O | C8H18N3O4P
